US04550172
(A) 4-[[3-(hydroxy)phenyl]amino]-4-oxobutanoic acid, methyl ester
To an ice cold solution of 3-aminophenol (21.8 g, 0.2 mol) and triethylamine (21.3 g, 0.2 mol) in tetrahydrofuran (250 ml) is added a solution of 3-carbomethoxypropanoyl chloride (30.1 g, 0.2 mol) in tetrahydrofuran. The reaction is allowed to warm to room temperature and is filtered through a pad of Celite and silica gel. The solvent is removed in vacuo to give a solid. Recrystallization from ethyl acetate gives 39.3 g (88% yield) of product, m.p. 144.5°-146° C.

reactant | 3-aminophenol | 0.2 mol, 21.8 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | triethylamine | 0.2 mol, 21.3 g | C(C)N(CC)CC | C6H15N
reactant | 3-carbomethoxypropanoyl chloride | 0.2 mol, 30.1 g | C(=O)(OC)CCC(=O)Cl | C5H7ClO3
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 4-[[3-(hydroxy)phenyl]amino]-4-oxobutanoic acid, methyl ester | 39.3 g, 88% yield | OC=1C=C(C=CC1)NC(CCC(=O)OC)=O | C11H13NO4
